US07012085B2
1-Benzyl-3-(5-chloro-2-methoxyphenyl)pyrrolidine
1.0 g of 2-(5-chloro-2-methoxyphenyl)succinic acid is suspended in 50 ml of xylene, 0.47 ml of benzylamine is added and the mixture refluxed for 8 hours with separation of water. The solvent is evaporated and the residue taken up in ethylacetate and extracted with 2N HCl, followed by 2N NaOH and aqueous NaCl. The organic layer is dried, filtered and the solvent evaporated. The dried residue is purified by flash chromatography using t-butylmethylether/hexane 1/1 providing the amorphous product: MS (EI): M+=329; NMR (DMSO): 2.65 (1H, dd), 3.1 (1H, dd), 3.45 (3H, s), 4.2 (1H, dd), 4.6 (2H, s), 7.0 (1H, d), 7.25-7.4 (7H, m).

reactant | 2-(5-chloro-2-methoxyphenyl)succinic acid | 1.0 g | ClC=1C=CC(=C(C1)C(C(=O)O)CC(=O)O)OC | C11H11ClO5
reactant | benzylamine | 0.47 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | water | O | H2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-Benzyl-3-(5-chloro-2-methoxyphenyl)pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)C1=C(C=CC(=C1)Cl)OC | C18H20ClNO
